US07312233B2
(3-nitroquinolin-7-yl)methanol
3-(3-(hydroxymethyl)phenylamino)-2-nitroacrylaldehyde (4.3 g, 19.4 mmol) was placed in 20 mL HOAc. 4.8 g of 3-aminobenzyl alcohol (4.8 g, 38.7 mmol) was dissolved in 5 mL conc HCl, then 20 mL HOAC was added to the HCl solution. This mixture was added to the reaction flask containing the 3-(3-(hydroxymethyl)phenylamino)-2-nitroacrylaldehyde in HOAc. The mixture was heated to reflux under nitrogen and after 20 min, benzene thiol (0.19 mL, 0.19 mmol) was added. The mixture was refluxed for 28 h (m/z=208.1). After allowing to cool, acid was removed under vacuum. The residue was dissolved in EtOAc/MeOH and loaded on a silica gel cartridge. Purification by column chromatography on silica gel using hexane/EtOAc (0-50%) then 10% MeOH/EtOAc as eluent gave the product (500 mg, 9%) as a brown solid.

reactant | 3-(3-(hydroxymethyl)phenylamino)-2-nitroacrylaldehyde | 19.4 mmol, 4.3 g | OCC=1C=C(C=CC1)NC=C(C=O)[N+](=O)[O-] | C10H10N2O4
reactant | 3-aminobenzyl alcohol | 38.7 mmol, 4.8 g | NC=1C=C(CO)C=CC1 | C7H9NO
solvent | HOAc | 20 mL | CC(=O)O | C2H4O2
solvent | HCl | 5 mL | Cl | ClH
catalyst | benzene thiol | 0.19 mmol, 0.19 mL | C1(=CC=CC=C1)S | C6H6S
product | (3-nitroquinolin-7-yl)methanol | 500 mg, 9% | [N+](=O)([O-])C=1C=NC2=CC(=CC=C2C1)CO | C10H8N2O3
